US07592373B2
4.274.a. 4-methoxy-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine
Prepared analogously to Example 1.1.c. from 1 g (3.62 mmol) of 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene and 1.25 g (10.87 mmol) of 4-methoxypiperidine. Yield: 1 g (89% of theory); C15H22N2O5 (M=310.35); calc.: molecular ion peak (M+H)+: 311; found: molecular ion peak (M+H)+: 311; Rf value: 0.5 (silica gel, dichloromethane/methanol (9:1)).

reactant | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | 3.62 mmol, 1 g | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | 4-methoxypiperidine | 10.87 mmol, 1.25 g | COC1CCNCC1 | C6H13NO
solvent | dichloromethane methanol | ClCCl.CO
product | 4-methoxy-1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine | COC1CCN(CC1)CCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C15H22N2O5
